US06344452B1
Preparation of (R)-2-[3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodi azepin-3-yl)ureido]phenyl]-2-methylpropionic acid N,N′-dibenzylethylenediamine salt
(R)-(−)-2-[3-[3-(1-tert-Butylcarbonylmethyl-2-oxo-5-c yclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)urei do]phenyl]-2-methylpropionic acid (158 mg) and N,N′-dibenzylethylenediamine (67 mg) were added to acetonitrile (2 mL), and were then dissolved under heat. The reaction mixture was allowed to stand. Crystals so precipitated were collected by filtration and dried, whereby the title compound (200 mg) was obtained. Yield: 89%.

reactant | (R)-(−)-2-[3-[3-(1-tert-Butylcarbonylmethyl-2-oxo-5-c yclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl)urei do]phenyl]-2-methylpropionic acid | 158 mg | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C=CC2)C(C(=O)O)(C)C)=O)=O | C32H42N4O5
reactant | N,N′-dibenzylethylenediamine | 67 mg | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | (R)-2-[3-[3-(1-tert-butylcarbonylmethyl-2-oxo-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodi azepin-3-yl)ureido]phenyl]-2-methylpropionic acid N,N′-dibenzylethylenediamine salt | 200 mg, Yield: 89% | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1.C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(NC=2C=C(C=CC2)C(C(=O)O)(C)C)=O)=O | InChI=1S/C32H42N4O5.C16H20N2/c1-31(2,3)27(37)20-36-26-17-10-9-16-25(26)35(23-14-7-6-8-15-23)19-24(28(36)38)34-30(41)33-22-13-11-12-21(18-22)32(4,5)29(39)40;1-3-7-15(8-4-1)13-17-11-12-18-14-16-9-5-2-6-10-16/h9-13,16-18,23-24H,6-8,14-15,19-20H2,1-5H3,(H,39,40)(H2,33,34,41);1-10,17-18H,11-14H2/t24-;/m1./s1
